US07253168B2
Step 5. Preparation of cis-1-(2-chloroacetyl)-5-(4-methoxy-2,3-dimethylphenyl)pyrrolidine-2-carboxylic acid ethyl ester
Chloroacetyl chloride (1.7 mL, 21.5 mmol) To a solution of cis-5-(4-methoxy-2,3-dimethylphenyl)pyrrolidine-2-carboxylic acid ethyl ester (16.56 mmol) and Et3N (3.5 mL, 24.8 mmol) in CH2Cl2 (80 mL) at 0° C. The reaction mixture is stirred at 0° C. for 15 min and then at room temperature for 45 min. The mixture then poured into half-saturated aq. NaHCO3 (100 mL) and extracted with EtOAc. The extract is further washed with water (1×50 mL) and brine (1×50 mL). The aqueous washes are reextracted once with EtOAc, and the combined extracts are dried over Na2SO4, and concentrated. The crude material is used in the next step without further purification. 1H NMR (CDCl3, 400 MHz): 7.90 (d, J=8.6 Hz, 1H), 6.78 (d, J=8.6 Hz, 1H), 5.30 (dd, J=7.6, 3.6 Hz, 1H), 4.53 (t, J=8.0 Hz, 1H), 4.37-4.21 (m, 2H), 3.81 (s, 3H), 3.77, 3.65 (ABq, J=13.2 Hz, 2H), 2.50-2.41 (m, 1H), 2.26 (s, 3H), 2.24-2.14 (m, 1H), 2.19 (s, 3H), 2.09-2.00 (m, 1H), 1.96-1.89 (m, 1H), 1.35 (t, J=7.2 Hz, 3H). Electrospray MS: m/z 354 [M+1].

reactant | Chloroacetyl chloride | 21.5 mmol, 1.7 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | cis-5-(4-methoxy-2,3-dimethylphenyl)pyrrolidine-2-carboxylic acid ethyl ester | 16.56 mmol | C(C)OC(=O)[C@@H]1N[C@@H](CC1)C1=C(C(=C(C=C1)OC)C)C | C16H23NO3
reactant | Et3N | 24.8 mmol, 3.5 mL | CCN(CC)CC | C6H15N
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | cis-1-(2-chloroacetyl)-5-(4-methoxy-2,3-dimethylphenyl)pyrrolidine-2-carboxylic acid ethyl ester | C(C)OC(=O)[C@@H]1N([C@@H](CC1)C1=C(C(=C(C=C1)OC)C)C)C(CCl)=O | C18H24ClNO4
